US04771054
Ethyl 2-(3-chloro-2,4,5-trifluorobenzoyl)-3-cyclo propylaminoacrylate
A solution of 2.7 g (8.0 mmol) of ethyl 2-(3-chloro-2,4,5-trifluorobenzoyl)-3-ethoxyacrylate, 0.46 g (8.0 mmol) of cyclopropylamine, and 40 ml of dry t-butanol was stirred at 45° C. for 21/2 hours. The mixture was cooled to room temperature and used without purification in the next step.

reactant | ethyl 2-(3-chloro-2,4,5-trifluorobenzoyl)-3-ethoxyacrylate | 8.0 mmol, 2.7 g | ClC=1C(=C(C(=O)C(C(=O)OCC)=COCC)C=C(C1F)F)F | C14H12ClF3O4
reactant | cyclopropylamine | 8.0 mmol, 0.46 g | C1(CC1)N | C3H7N
solvent | t-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | Ethyl 2-(3-chloro-2,4,5-trifluorobenzoyl)-3-cyclo propylaminoacrylate | ClC=1C(=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C1F)F)F | C15H13ClF3NO3
